US07319155B2
1.5 g (5 mmol) of [7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl]methanol in 15 ml of dichloromethane are introduced into a flask. 0.76 g (7.5 mmol) of triethylamine is added and 1 g (5.4 mmol) of p-toluenesulfonyl chloride is added in small solid portions at room temperature. After 20 hours of reaction, the solvent is evaporated off and the crude product is purified by silica gel chromatography (heptane/ethyl acetate: 4/1) to give 0.6 g of 2-chloromethyl-7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocycloheptene.

reactant | [7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocyclohepten-2-yl]methanol | 5 mmol, 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C1OCC2=C(CO1)C=C(C=C2)CO | C16H15NO5
reactant | triethylamine | 7.5 mmol, 0.76 g | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 5.4 mmol, 1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-chloromethyl-7-(4-nitrophenyl)-(5H,9H)-6,8-dioxabenzocycloheptene | 0.6 g, Yield: 38% | ClCC=1C=CC2=C(COC(OC2)C2=CC=C(C=C2)[N+](=O)[O-])C1 | C16H14ClNO4
